US04092311
Preparation of Intermediate 6-(m-cyanophenyl)-5-methyl-3-chloropyridazine
A 2.95 g. portion of 6-(m-cyanophenyl)-5-methyl-3(2H)-pyridazinone [prepared as described in Example 8 but employing 4,5-dihydro-5-methyl-6-(m-cyanophenyl)-3(2H)-pyridazinone (which in turn is prepared by employing 6-(m-chlorophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone in Example 44 of U.S. Pat. No. 3,824,271)] and 35 ml. of phosphorus oxychloride are heated on a steam bath for 5 hours. The mixture is concentrated free of excess phosphorus oxychloride and the concentrate is diluted with ice water. The resulting product, a tan solid, is recovered by filtration, washed with water and dried, m.p. 153°-155° C.

reactant | 6-(m-cyanophenyl)-5-methyl-3(2H)-pyridazinone | C(#N)C=1C=C(C=CC1)C=1C(=CC(NN1)=O)C | C12H9N3O
reactant | 4,5-dihydro-5-methyl-6-(m-cyanophenyl)-3(2H)-pyridazinone | CC1CC(NN=C1C1=CC(=CC=C1)C#N)=O | C12H11N3O
reactant | 6-(m-chlorophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | ClC=1C=C(C=CC1)C=1C(CC(NN1)=O)C | C11H11ClN2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(m-cyanophenyl)-5-methyl-3-chloropyridazine | C(#N)C=1C=C(C=CC1)C1=C(C=C(N=N1)Cl)C | C12H8ClN3
